US04590201
A solution of 2,6-dichloro-4methylbenzoic acid (7.15 g, 34.9 mmol) in thionyl chloride (133 ml) containing dimethylformamide (1.3 ml) was refluxed 3 hours, evaporated under vacuum, and azeotroped twice with benzene. The residue was triturated with petroleum ether (b.p. 30°-60° C., 200 ml) and filtered. The filtrate was evaporated under vacuum to provide 8.5 g (109% of theory) 2,6-dichloro-4-methylbenzoyl chloride, IR (neat): 1785 cm-1. The crude chloride and chlorobenzene (94 g) were stirred in carbon tetrachloride (235 ml), treated in portions with aluminum chloride (5.35 g, 40.1 mmol), kept 30 minutes at ambient temperature, and refluxed 3 hours. The mixture was cooled, quenched by addition of ice and concentrated hydrochloric acid, and extracted three times with dichloromethane. The combined extracts were washed with water, dried over anhydrous magnesium sulfate, and evaporated under vacuum. The residue was chromatographed on a column of silica gel (400 g) eluted with 3:2 (v/v) dichloromethane-hexane to provide 7.19 g (69%) of 4-(4-chlorobenzoyl)-3,5-dichlorotoluene, m.p. 111.5°-114° C.

reactant | 2,6-dichloro-4methylbenzoic acid | 34.9 mmol, 7.15 g | ClC1=C(C(=O)O)C(=CC(=C1)C)Cl | C8H6Cl2O2
reactant | dimethylformamide | 1.3 ml | CN(C=O)C | C3H7NO
reactant | thionyl chloride | 133 ml | S(=O)(Cl)Cl | Cl2OS
product | 2,6-dichloro-4-methylbenzoyl chloride | 8.5 g, 109% | ClC1=C(C(=O)Cl)C(=CC(=C1)C)Cl | C8H5Cl3O
